US04929628
O-phenylisourea (1 g) was dissolved in chloroform (50 ml) and triethylamine (1.2 g) and thereafter benzoylchloride (0.8 g) were added at 0° to 5° C. After stirring for one hour at 0° to 5° C., the mixture was washed with water and the chloroform was evaporated off under reduced pressure to give N-benzoyl-O-phenylisourea (1 g), m.p. 125.1° C.

reactant | O-phenylisourea | 1 g | C1(=CC=CC=C1)OC(N)=N | C7H8N2O
reactant | triethylamine | 1.2 g | C(C)N(CC)CC | C6H15N
reactant | benzoylchloride | 0.8 g | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
solvent | chloroform | 50 ml | C(Cl)(Cl)Cl | CHCl3
product | N-benzoyl-O-phenylisourea | 1 g | C(C1=CC=CC=C1)(=O)NC(OC1=CC=CC=C1)=N | C14H12N2O2
